2154-09-03 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   EGD in MICU yesterday revealed bleeding from cardia, no source
   identified.
   Allergies:
   Shellfish Derived
   Unknown;
   Tylenol (Oral) (P-Ephed Hcl/Acetaminophn/Dpha)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-3**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 69 (59 - 100) bpm
   BP: 124/65(79) {111/57(69) - 152/86(100)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     24 mL
                                                                    151 mL
   PO:
             TF:
   IVF:
                                                                     24 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    700 mL
   Urine:
   700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     24 mL
                                                                   -549 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   12.7 g/dL
   100 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   24 mg/dL
   109 mEq/L
   140 mEq/L
   35.9 %
   4.4 K/uL
        [image002.jpg]
                             [**2154-9-3**]  12:13 AM
                             [**2154-9-3**]  03:00 AM
                             [**2154-9-3**]  06:05 AM
   WBC
   4.4
   Hct
   37.8
   36.2
   35.9
   Plt
   187
   Cr
   1.1
   Glucose
   100
   Other labs: PT / PTT / INR:14.0/27.9/1.2, ALT / AST:13/22, Alk Phos / T
   Bili:53/0.4, Differential-Neuts:61.6 %, Lymph:26.2 %, Mono:9.9 %,
   Eos:1.7 %, LDH:168 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: EGD: bleeding in cardia, persist ooze, no source identified
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   - rescope this am
   - continue ppi
   - serial q4h hcts
   - transfer to [**Hospital Unit Name 4**] for advanced endoscopy center procedure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-2**] 10:51 PM x 2
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: Transfer to [**Hospital Unit Name 4**]

2154-09-03 19:22:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had endoscopy again this afternoon. Multiple punctate lesions
   seen in gastric mucosa. No discrete ulceration.  Hct has been stable.
   Hemodynamics have been stable.
   Patient admits to moderate EtOH intake in the past week, and additional
   hx from patient's mother that he had EGD in the past that reportedly
   showed gastritis. Has hx of H pylori that was treated.
   24 Hour Events:
                                    History obtained from Patient
   Allergies:
   Shellfish Derived
   Unknown;
   Tylenol (Oral) (P-Ephed Hcl/Acetaminophn/Dpha)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-3**] 07:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 58 (49 - 100) bpm
   BP: 129/68(82) {111/57(69) - 152/86(100)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                     24 mL
                                                                  1,307 mL
   PO:
             TF:
   IVF:
                                                                     24 mL
                                                                  1,307 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  3,425 mL
   Urine:
   3,425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     24 mL
                                                                 -2,118 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, 20 point orthostasis
   lying to sitting
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.7 g/dL
   187 K/uL
   100 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   24 mg/dL
   109 mEq/L
   140 mEq/L
   37.9 %
   4.4 K/uL
        [image002.jpg]
                             [**2154-9-3**]  12:13 AM
                             [**2154-9-3**]  03:00 AM
                             [**2154-9-3**]  06:05 AM
                             [**2154-9-3**]  09:06 AM
                             [**2154-9-3**]  01:04 PM
                             [**2154-9-3**]  05:06 PM
   WBC
   4.4
   Hct
   37.8
   36.2
   35.9
   38.3
   37.4
   37.9
   Plt
   187
   Cr
   1.1
   Glucose
   100
   Other labs: PT / PTT / INR:13.5/29.3/1.2, ALT / AST:13/22, Alk Phos / T
   Bili:53/0.4, Differential-Neuts:61.6 %, Lymph:26.2 %, Mono:9.9 %,
   Eos:1.7 %, LDH:168 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ANEMIA
   ================
   Patient with hx of gastritis and H pylori (treated) admitted with UGI
   bleed due to gastritis. Is orthostatic by pulse now and needs
   additional volume resuscitation. Allow clear liqs tonight. Hct will
   probably drop with volume resuscitation but patient is not near
   transfusion threshold. No evidence of coagulopathy.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-2**] 10:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2154-09-04 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hcts have been stable and received 3 liters of NS due to orthostatic
   signs
   Allergies:
   Shellfish Derived
   Unknown;
   Tylenol (Oral) (P-Ephed Hcl/Acetaminophn/Dpha)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-4**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 51 (48 - 92) bpm
   BP: 119/62(76) {118/60(75) - 150/89(101)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,896 mL
                                                                  1,056 mL
   PO:
             TF:
   IVF:
                                                                  2,896 mL
                                                                  1,056 mL
   Blood products:
   Total out:
                                                                  4,125 mL
                                                                  1,000 mL
   Urine:
                                                                  4,125 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,229 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, somnolent but
   easily arousable
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Dry mucus membranes
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash: in limited exam
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): situation, place; formal assessment deferred in
   setting of sedation, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   187 K/uL
   12.7 g/dL
   100 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   24 mg/dL
   109 mEq/L
   140 mEq/L
   36.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2154-9-3**]  12:13 AM
                             [**2154-9-3**]  03:00 AM
                             [**2154-9-3**]  06:05 AM
                             [**2154-9-3**]  09:06 AM
                             [**2154-9-3**]  01:04 PM
                             [**2154-9-3**]  05:06 PM
                             [**2154-9-4**]  12:44 AM
   WBC
   4.4
   Hct
   37.8
   36.2
   35.9
   38.3
   37.4
   37.9
   36.5
   Plt
   187
   Cr
   1.1
   Glucose
   100
   Other labs: PT / PTT / INR:13.5/29.3/1.2, ALT / AST:13/22, Alk Phos / T
   Bili:53/0.4, Differential-Neuts:61.6 %, Lymph:26.2 %, Mono:9.9 %,
   Eos:1.7 %, LDH:168 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Abdom. U/S:
   IMPRESSION: 1. Enlarged spleen measuring 16 cm. 2. Normal waveforms in
   hepatic vessels
   Assessment and Plan
   This is a 21 year old college student who presents with otherwise
   asymptomatic melanotic stool and a consistently bloody NG lavage in the
   ED, who has now undergone 2 EGDs which show diffuse oozing consistent
   with a diffuse hemorrhagic gastritis of unclear origin.
   UPPER GI BLEED
   Hematocrits are essentially stable given the fluids he has received.
   [**Month (only) 8**] have an element of  slow ooze but not acute dramatic bleed,
   affirming findings on EGD. Origin of the gastritis is unclear. Likely
   in the setting of increased alcohol intake and history of gastritis and
   esophageal web points toward a possible predilection to
   gastric/esophageal pathology.  Other causes: Per Dr. [**Last Name (STitle) 7289**], the rugae
   were not abnormal which would argue against lymphoma, although a biopsy
   could not be obtained. There is no known bleeding history in this
   active young man, nor a family history of bleeding disorders, but an
   acquired factor deficiency or other clotting disorder could lead to
   gastric bleeding.
   - H. pylori stool antigen
   - Continue IV PPI drip 8mg/hr
   - serial Hct [**Hospital1 **] as they have been stable for the past 24 hours.
   - 2 units are crossmatched; T+S is current
   - Advance diet to clear liquids today and bolus 1 more liter of NS
   - For eval of portal system: pt is allergic to shellfish, per mother
   has had asthmatic reaction in past to shellfish and she has severe
   allergy as well, so CT contrast would be risky for him; abdominal
   ultrasound should show any significant portal vein pathology cheaply
   and quickly, this is ordered and pending
   - If U/S with presence of large spleen of uncertain etiology, no other
   findings
   - coags normal and bleeding time pending
   SPLEENOMEGALY:
   Unclear etiology at this point. Differential: (hyperplasia ->immune vs.
   RES; congestion, and infiltration (non-malignant vs.neoplastic).
   hemolytic anemia, which patient shows no signs at this point (normal
   LDH) Patient with no known recent infection, i.e EBV, CMV, TB, malaria.
   Autoimmune disorders could be a possibiltiy, but less likely to present
   at this age. Neoplasm is also a possibility, although no other signs
   present at this point. . No history of liver pathology to think of
   congestion.
   - Consider HIV testing if not already done
   - Consider further neoplastic workup of other symptoms present;
   currently low white count of 4.4
   - F/U in outpatient for further evaluation
   - call heme/onc to see if further evaluation should be done
   HYPERTENSION
   See prior note. High normal BP for now. In setting of possible bleed,
   mild hypertension is not a problem; likely deserves outpatient workup
   given apparent history of grandfather with early MI, and given that pt
   is active athlete with no other apparent risk.
   - follow up in outpatient
   - update d/c summary to include this issue
   HIGH TSH
   In setting of w/u for blood pressure, high TSH was obtained. Free T4 is
   pending. Subclinical hypothyroidism most likely, difficult to evaluate
   in setting of acute medical stress.
   - unlikely to be need for intervention; outpt f/u
   - f/u free T4
   Nutrition:
   Comments: NPO and advance to clear liquids as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-2**] 10:51 PM
   Prophylaxis:
   DVT: Boots(avoiding anticoagulation in setting of active bleed)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Pt
s mother is Dr. [**First Name8 (NamePattern2) 9133**] [**Last Name (NamePattern1) 6029**], phone numbers are:
   [**Telephone/Fax (1) 9134**] (home), [**Telephone/Fax (1) 9135**] (cell)
   ICU consent signed
   Code status: Full code
   Disposition:ICU
 likely transfer to floor today

2154-09-04 09:20:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient stable hemodynamically overnight. Hct stable. Received 2 L of
   IV fluid overnigiht.
   24 Hour Events:
 ENDOSCOPY - At [**2154-9-3**] 11:31 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Shellfish Derived
   Unknown;
   Tylenol (Oral) (P-Ephed Hcl/Acetaminophn/Dpha)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-4**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 48 (48 - 92) bpm
   BP: 125/63(78) {118/60(75) - 150/89(101)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,896 mL
                                                                  2,494 mL
   PO:
             TF:
   IVF:
                                                                  2,896 mL
                                                                  2,494 mL
   Blood products:
   Total out:
                                                                  4,125 mL
                                                                  1,000 mL
   Urine:
                                                                  4,125 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,229 mL
                                                                  1,494 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Still orthostatic by
   pulse
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Good air movement throughout, No(t) Crackles :
   , No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent
   : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.1 g/dL
   156 K/uL
   100 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   24 mg/dL
   109 mEq/L
   140 mEq/L
   37.9 %
   3.7 K/uL
        [image002.jpg]
                             [**2154-9-3**]  12:13 AM
                             [**2154-9-3**]  03:00 AM
                             [**2154-9-3**]  06:05 AM
                             [**2154-9-3**]  09:06 AM
                             [**2154-9-3**]  01:04 PM
                             [**2154-9-3**]  05:06 PM
                             [**2154-9-4**]  12:44 AM
                             [**2154-9-4**]  07:45 AM
   WBC
   4.4
   3.7
   Hct
   37.8
   36.2
   35.9
   38.3
   37.4
   37.9
   36.5
   37.9
   Plt
   187
   156
   Cr
   1.1
   Glucose
   100
   Other labs: PT / PTT / INR:13.5/29.3/1.2, ALT / AST:13/22, Alk Phos / T
   Bili:53/0.4, Differential-Neuts:61.6 %, Lymph:26.2 %, Mono:9.9 %,
   Eos:1.7 %, LDH:168 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ANEMIA SECONDARY TO BLOOD LOSS
   ===================
   Patient doing well without evidence of recurrent bleeding. Hct stable.
   Urine output good. Still somewhat orthostatic by pulse. Give additional
   IV fluids.
   ICU Care
   Nutrition: Begin clear liqs
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-2**] 10:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2154-09-05 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   EDG: friable mucosa, drinks 14 drinks per week, GI concerned that there
   may be an underlying problem  ? lymphoma, but no typical changes of
   lymphoma on EDG
   - send H. pylori stool antigen
   - [**Hospital1 **] HCT's
have been stable
   - called out, awaiting bed yesterday but none available
   - GI rec's: patient is able to be discharged home today
   Allergies:
   Shellfish Derived
   Unknown;
   Tylenol (Oral) (P-Ephed Hcl/Acetaminophn/Dpha)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-5**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 49 (47 - 122) bpm
   BP: 127/61(75) {100/57(69) - 155/78(98)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  5,779 mL
                                                                    458 mL
   PO:
                                                                  1,340 mL
             TF:
   IVF:
                                                                  4,439 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  4,275 mL
                                                                    500 mL
   Urine:
                                                                  4,275 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,504 mL
                                                                    -42 mL
   Respiratory support
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, awake, alert
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: moist mucus membranes
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash: in limited exam
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): situation, place; formal assessment deferred in
   setting of sedation, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   175 K/uL
   12.7 g/dL
   93 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.9 mEq/L
   9 mg/dL
   107 mEq/L
   140 mEq/L
   37.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2154-9-3**]  12:13 AM
                             [**2154-9-3**]  03:00 AM
                             [**2154-9-3**]  06:05 AM
                             [**2154-9-3**]  09:06 AM
                             [**2154-9-3**]  01:04 PM
                             [**2154-9-3**]  05:06 PM
                             [**2154-9-4**]  12:44 AM
                             [**2154-9-4**]  07:45 AM
                             [**2154-9-4**]  04:23 PM
                             [**2154-9-5**]  03:54 AM
   WBC
   4.4
   3.7
   4.4
   Hct
   37.8
   36.2
   35.9
   38.3
   37.4
   37.9
   36.5
   37.9
   35.5
   37.1
   Plt
   187
   156
   175
   Cr
   1.1
   1.1
   Glucose
   100
   93
   Other labs: PT / PTT / INR:13.5/29.3/1.2, ALT / AST:13/22, Alk Phos / T
   Bili:53/0.4, Differential-Neuts:61.6 %, Lymph:26.2 %, Mono:9.9 %,
   Eos:1.7 %, LDH:168 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   This is a 21 year old college student who presents with otherwise
   asymptomatic melanotic stool and a consistently bloody NG lavage in the
   ED, who has now undergone 2 EGDs which show diffuse oozing consistent
   with a diffuse hemorrhagic gastritis of unclear origin.
   UPPER GI BLEED
   Hematocrits have been stable even given the fluids he has received.
   Slow ooze but not acute dramatic bleed, confirmed on EGD. Origin of the
   gastritis is unclear. Likely in the setting of increased alcohol intake
   and history of gastritis and esophageal web points toward a possible
   predilection to gastric/esophageal pathology.  Other causes: Per Dr.
   [**Last Name (STitle) 7289**], the rugae were not abnormal which would argue against
   lymphoma, although a biopsy could not be obtained. There is no known
   bleeding history in this active young man, nor a family history of
   bleeding disorders, but an acquired factor deficiency or other clotting
   disorder could lead to gastric bleeding.
   - f/u H. pylori stool antigen
   - [**Hospital1 **] PPI for now changed to po
   - serial Hct [**Hospital1 **] as they have been stable for the past 72 hours.
   - 2 units are crossmatched; T+S is current
   - advance diet to regular
   - Abdominal U/S: with splenomegaly at 16cm but no signs of portal htn
   - coags normal and bleeding time pending
   SPLENOMEGALY:
   Unclear etiology at this point. Differential: (hyperplasia ->immune vs.
   RES; congestion, and infiltration (non-malignant vs.neoplastic).
   hemolytic anemia, which patient shows no signs at this point (normal
   LDH) Patient with no known recent infection, i.e EBV, CMV, TB, malaria.
   Autoimmune disorders could be a possibiltiy, but less likely to present
   at this age. Neoplasm is also a possibility, although no other signs
   present at this point. . No history of liver pathology to think of
   congestion.
   - Patient with recent pharyngitis about two weeks prior to admission,
   possible recent infection contributing
   - Consider HIV testing if not already done
   - Consider further neoplastic workup of other symptoms present;
   currently low white count of 4.4
   - F/U in outpatient for further evaluation
   - call heme/onc to see if further evaluation should be done
   HYPERTENSION
   See prior note. High normal BP for now. In setting of possible bleed,
   mild hypertension is not a problem; likely deserves outpatient workup
   given apparent history of grandfather with early MI, and given that pt
   is active athlete with no other apparent risk.
   - follow up as outpatient
   HIGH TSH
   In setting of w/u for blood pressure, high TSH was obtained. Free T4 is
   pending. Subclinical hypothyroidism most likely, difficult to evaluate
   in setting of acute medical stress.
   - unlikely to be need for intervention; outpt f/u
   - f/u free T4-still pending willl need outpt f/u
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-2**] 10:51 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Called out to floor yesterday, no bed available, likely
   d/c home this afternoon , will need new outpatient adult PCP follow up
   for transition from pediatrics to adult care

2154-09-05 11:23:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct stable. Began eating yesterday. Hemodynamically stable.
   24 Hour Events:
                                    History obtained from Patient
   Allergies:
   Shellfish Derived
   Unknown;
   Tylenol (Oral) (P-Ephed Hcl/Acetaminophn/Dpha)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-9-5**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-5**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 66 (47 - 74) bpm
   BP: 135/73(86) {100/57(69) - 139/78(89)} mmHg
   RR: 17 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,779 mL
                                                                    518 mL
   PO:
                                                                  1,340 mL
             TF:
   IVF:
                                                                  4,439 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                  4,275 mL
                                                                  1,000 mL
   Urine:
                                                                  4,275 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,504 mL
                                                                   -483 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Pupils dilated, No(t) Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   175 K/uL
   93 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.9 mEq/L
   9 mg/dL
   107 mEq/L
   140 mEq/L
   37.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2154-9-3**]  12:13 AM
                             [**2154-9-3**]  03:00 AM
                             [**2154-9-3**]  06:05 AM
                             [**2154-9-3**]  09:06 AM
                             [**2154-9-3**]  01:04 PM
                             [**2154-9-3**]  05:06 PM
                             [**2154-9-4**]  12:44 AM
                             [**2154-9-4**]  07:45 AM
                             [**2154-9-4**]  04:23 PM
                             [**2154-9-5**]  03:54 AM
   WBC
   4.4
   3.7
   4.4
   Hct
   37.8
   36.2
   35.9
   38.3
   37.4
   37.9
   36.5
   37.9
   35.5
   37.1
   Plt
   187
   156
   175
   Cr
   1.1
   1.1
   Glucose
   100
   93
   Other labs: PT / PTT / INR:13.5/29.3/1.2, ALT / AST:13/22, Alk Phos / T
   Bili:53/0.4, Differential-Neuts:61.6 %, Lymph:26.2 %, Mono:9.9 %,
   Eos:1.7 %, LDH:168 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ANEMIA
   ===========
   Patient doing well. Hct stable; no evidence of additional bleeding.
   Advance diet. Ambulate today and if doing well discharge to home later
   this afternoon.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-2**] 10:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments: VAP protocol not applicable.
   Communication:  Comments:
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 30 minutes